US05134149
The resulting 4-(2,3-dimethoxyphenyl)-4-piperidinylmethanone trifluoroacetate was dissolved in water, treated with NaOH (10% aqueous) until basic, and extracted three times with dichloromethane. The combined organic layers were washed with brine, dried (MgSO4), filtered, and evaporated to afford 4-(2,3-dimethoxyphenyl)-4-piperidinylmethanone as an oil.

reactant | 4-(2,3-dimethoxyphenyl)-4-piperidinylmethanone trifluoroacetate | FC(C(=O)O)(F)F.COC1=C(C=CC=C1OC)C1(CCNCC1)C=O
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(2,3-dimethoxyphenyl)-4-piperidinylmethanone | COC1=C(C=CC=C1OC)C1(CCNCC1)C=O | C14H19NO3
